US04082851
To a mixture of lithium aluminium hydride (1.6 g) and dry tetrahydrofuran (10 ml), a solution of 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide (2.25 g) in dry pyridine (20 ml) is added, and the mixture is refluxed for 16 hours. After cooling, ethyl acetate (1 ml) followed by water (6 ml) are very cautiously added dropwise, whereafter the mixture is stirred for a further 30 minutes. It is then heated on a steambath and filtered hot; the filter-cake is carefully washed with hot 2-methoxyethanol (3 portions of 20 ml). The combined filtrates are evaporated in vacuo and the residue is crystallized from ethanol to give 3-n-butylamino-4-phenoxy-5-sulfamylbenzylamine with a melting point of 195°-198° C.

reactant | lithium aluminium hydride | 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide | 2.25 g | C(CCC)NC=1C=C(C(=O)N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H21N3O4S
reactant | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 6 ml | O | H2O
product | 3-n-butylamino-4-phenoxy-5-sulfamylbenzylamine | C(CCC)NC=1C=C(CN)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H23N3O3S
